US08664220B2
Step 2: N-{1-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-3-trimethylsilanyl-prop-2-ynyl}-methanesulfonamide
(Trimethylsilyl)acetylene (0.6926 mL, 5 mmol) and diethylzinc (1.1M in toluene, 4.54 mL, 5 mmol) were dissolved in toluene (15.5 mL) and stirred for 1 hour at room temperature. Then, N-[1-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-meth-(E)-ylidene]-methanesulfonamide (1 g, 0.291 mmol) was added and the reaction was heated to 60° C. for 20 hours. The reaction was quenched with H2O and submitted to aqueous workup then purified via silica gel chromatography to yield the title compound which was brought directly to the next step.

reactant | (Trimethylsilyl)acetylene | 5 mmol, 0.6926 mL | C[Si](C)(C)C#C | C5H10Si
reactant | diethylzinc | 5 mmol, 1.1M, 4.54 mL | C(C)[Zn]CC
reactant | N-[1-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-meth-(E)-ylidene]-methanesulfonamide | 0.291 mmol, 1 g | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)\C=N\S(=O)(=O)C | C12H11BrN2O3S
solvent | toluene | 15.5 mL | C1(=CC=CC=C1)C | C7H8
product | N-{1-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-3-trimethylsilanyl-prop-2-ynyl}-methanesulfonamide | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(C#C[Si](C)(C)C)NS(=O)(=O)C | C17H21BrN2O3SSi
